US07375119B2
Methyl trans-4-aminocyclohexanecarboxylate hydrochloride (5.00 g) obtained in Reference Example 2(1) is dissolved in chloroform (60 ml), and thereto is added triethylamine (11 ml) under ice-cooling, followed by dropwise addition of a solution of 2-chloroethyl chloroformate (3.3 ml) in chloroform (10 ml). After stirring at room temperature for 2.5 hours, to the reaction solution is added 5% hydrochloric acid and the mixture is extracted with chloroform. The organic layer is washed with saturated brine, dried over sodium sulfate, and then evaporated to remove the solvent under reduced pressure. The resulting residue is suspended in chloroform/diisopropyl ether. The precipitates are collected by filtration and dried to give methyl trans-4-{[(2-chloroethoxy)carbonyl]amino}cyclohexanecarboxylate (5.11 g). APCI-MS M/Z:264/266[M+H]+

reactant | Methyl trans-4-aminocyclohexanecarboxylate hydrochloride | 5.00 g | Cl.N[C@@H]1CC[C@H](CC1)C(=O)OC
reactant | triethylamine | 11 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethyl chloroformate | 3.3 ml | ClC(=O)OCCCl | C3H4Cl2O2
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl trans-4-{[(2-chloroethoxy)carbonyl]amino}cyclohexanecarboxylate | 5.11 g | ClCCOC(=O)N[C@@H]1CC[C@H](CC1)C(=O)OC | C11H18ClNO4
